* Extracted by KLayout with SG13G2 LVS runset on : 29/03/2026 19:05

.SUBCKT iqmod_top di_analog_en di_spdt_ctrl_I di_spdt_ctrl_Q voutp_I_RF
+ voutn_I_RF voutn_Q_RF voutp_Q_RF di_lo_Ix di_lo_I di_lo_Qx di_lo_Q vinp_I
+ vinn_I vinn_Q vinp_Q di_ds_I_p di_ds_I_n di_ds_Q_n di_ds_Q_p VDD VSS
X$4 di_spdt_ctrl_Q \$I19 vinp_Q di_ds_Q_p \$2 VDD VSS iqmod_spdt_switch
X$5 \$I17 di_lo_Qx VSS voutn_Q_RF VDD di_lo_Q voutp_Q_RF \$2 \$I18 iqmod_mixer
X$6 di_spdt_ctrl_Q \$I16 vinn_Q di_ds_Q_n \$2 VDD VSS iqmod_spdt_switch
X$7 di_analog_en \$2 \$I19 \$I16 VDD VSS \$I18 \$I17 iqmod_mfb_lpf
X$8 di_spdt_ctrl_I \$I23 vinp_I di_ds_I_p \$2 VDD VSS iqmod_spdt_switch
X$9 \$I21 di_lo_Ix VSS voutn_I_RF VDD di_lo_I voutp_I_RF \$2 \$I22 iqmod_mixer
X$10 di_spdt_ctrl_I \$I20 vinn_I di_ds_I_n \$2 VDD VSS iqmod_spdt_switch
X$11 di_analog_en \$2 \$I23 \$I20 VDD VSS \$I22 \$I21 iqmod_mfb_lpf
.ENDS iqmod_top

.SUBCKT iqmod_mixer vinn_IF vinn_LO VSS voutn_RF VDD vinp_LO voutp_RF \$21
+ vinp_IF
M$1 voutn_RF \$I211 vinn_IF \$21 sg13_lv_nmos L=0.13u W=108u AS=20.97p
+ AD=20.52p PS=124.98u PD=121.68u rfmode=0
M$37 voutn_RF \$I210 voutn_RF \$21 sg13_lv_nmos L=0.13u W=54u AS=10.26p
+ AD=10.71p PS=60.84u PD=64.14u rfmode=0
R$55 VSS \$21 ptap1 A=258.216p P=1721.44u
M$56 voutp_RF \$I214 vinp_IF \$21 sg13_lv_nmos L=0.13u W=108u AS=20.97p
+ AD=20.52p PS=124.98u PD=121.68u rfmode=0
M$92 voutp_RF \$I213 voutp_RF \$21 sg13_lv_nmos L=0.13u W=54u AS=10.26p
+ AD=10.71p PS=60.84u PD=64.14u rfmode=0
M$111 voutn_RF \$I210 vinn_IF \$I212 sg13_lv_pmos L=0.13u W=324u AS=62.91p
+ AD=61.56p PS=346.98u PD=337.68u rfmode=0
M$147 voutn_RF \$I211 voutn_RF \$I212 sg13_lv_pmos L=0.13u W=162u AS=30.78p
+ AD=32.13p PS=168.84u PD=178.14u rfmode=0
R$165 VDD \$I212 ntap1 A=85.524p P=570.16u
M$166 voutp_RF \$I213 vinp_IF \$I215 sg13_lv_pmos L=0.13u W=324u AS=62.91p
+ AD=61.56p PS=346.98u PD=337.68u rfmode=0
M$202 voutp_RF \$I214 voutp_RF \$I215 sg13_lv_pmos L=0.13u W=162u AS=30.78p
+ AD=32.13p PS=168.84u PD=178.14u rfmode=0
R$220 VDD \$I215 ntap1 A=85.524p P=570.16u
M$221 VSS VSS VSS \$21 sg13_lv_nmos L=0.13u W=52u AS=13.78p AD=13.78p
+ PS=105.56u PD=105.56u rfmode=0
M$222 VSS \$I224 \$I211 \$21 sg13_lv_nmos L=0.13u W=54u AS=10.26p AD=10.26p
+ PS=74.52u PD=74.52u rfmode=0
M$279 VSS \$I227 \$I214 \$21 sg13_lv_nmos L=0.13u W=54u AS=10.26p AD=10.26p
+ PS=74.52u PD=74.52u rfmode=0
M$335 VDD VDD VDD \$I212 sg13_lv_pmos L=0.13u W=42u AS=11.13p AD=11.13p
+ PS=70.42u PD=70.42u rfmode=0
M$336 VDD \$I224 \$I211 \$I212 sg13_lv_pmos L=0.13u W=162u AS=30.78p AD=30.78p
+ PS=182.52u PD=182.52u rfmode=0
M$392 VDD VDD VDD \$I215 sg13_lv_pmos L=0.13u W=42u AS=11.13p AD=11.13p
+ PS=70.42u PD=70.42u rfmode=0
M$393 VDD \$I227 \$I214 \$I215 sg13_lv_pmos L=0.13u W=162u AS=30.78p AD=30.78p
+ PS=182.52u PD=182.52u rfmode=0
M$450 VSS \$I223 \$I224 \$21 sg13_lv_nmos L=0.13u W=18u AS=3.42p AD=3.42p
+ PS=24.84u PD=24.84u rfmode=0
M$471 VSS \$I226 \$I227 \$21 sg13_lv_nmos L=0.13u W=18u AS=3.42p AD=3.42p
+ PS=24.84u PD=24.84u rfmode=0
M$492 VDD \$I223 \$I224 \$I212 sg13_lv_pmos L=0.13u W=54u AS=10.26p AD=10.26p
+ PS=60.84u PD=60.84u rfmode=0
M$513 VDD \$I226 \$I227 \$I215 sg13_lv_pmos L=0.13u W=54u AS=10.26p AD=10.26p
+ PS=60.84u PD=60.84u rfmode=0
M$534 VDD vinn_LO \$I218 \$I212 sg13_lv_pmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=6.76u PD=6.76u rfmode=0
M$539 VDD \$I217 \$I216 \$I212 sg13_lv_pmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=6.76u PD=6.76u rfmode=0
M$544 VDD vinp_LO \$I221 \$I215 sg13_lv_pmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=6.76u PD=6.76u rfmode=0
M$549 VDD \$I220 \$I219 \$I215 sg13_lv_pmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=6.76u PD=6.76u rfmode=0
M$554 VSS vinn_LO \$I218 \$21 sg13_lv_nmos L=0.13u W=4u AS=0.76p AD=0.76p
+ PS=5.52u PD=5.52u rfmode=0
M$559 VSS \$I217 \$I216 \$21 sg13_lv_nmos L=0.13u W=2u AS=0.38p AD=0.38p
+ PS=2.76u PD=2.76u rfmode=0
M$564 VSS vinp_LO \$I221 \$21 sg13_lv_nmos L=0.13u W=4u AS=0.76p AD=0.76p
+ PS=5.52u PD=5.52u rfmode=0
M$569 VSS \$I220 \$I219 \$21 sg13_lv_nmos L=0.13u W=2u AS=0.38p AD=0.38p
+ PS=2.76u PD=2.76u rfmode=0
M$574 VSS \$I222 \$I217 \$21 sg13_lv_nmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=8.28u PD=8.28u rfmode=0
M$583 VSS \$I218 \$I222 \$21 sg13_lv_nmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=8.28u PD=8.28u rfmode=0
M$592 VSS \$I217 \$I223 \$21 sg13_lv_nmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=8.28u PD=8.28u rfmode=0
M$601 VSS \$I225 \$I220 \$21 sg13_lv_nmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=8.28u PD=8.28u rfmode=0
M$610 VSS \$I221 \$I225 \$21 sg13_lv_nmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=8.28u PD=8.28u rfmode=0
M$619 VSS \$I220 \$I226 \$21 sg13_lv_nmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=8.28u PD=8.28u rfmode=0
M$628 VDD \$I222 \$I217 \$I212 sg13_lv_pmos L=0.13u W=18u AS=3.42p AD=3.42p
+ PS=20.28u PD=20.28u rfmode=0
M$637 VDD \$I218 \$I222 \$I212 sg13_lv_pmos L=0.13u W=18u AS=3.42p AD=3.42p
+ PS=20.28u PD=20.28u rfmode=0
M$646 VDD \$I217 \$I223 \$I212 sg13_lv_pmos L=0.13u W=18u AS=3.42p AD=3.42p
+ PS=20.28u PD=20.28u rfmode=0
M$655 VDD \$I225 \$I220 \$I215 sg13_lv_pmos L=0.13u W=18u AS=3.42p AD=3.42p
+ PS=20.28u PD=20.28u rfmode=0
M$664 VDD \$I221 \$I225 \$I215 sg13_lv_pmos L=0.13u W=18u AS=3.42p AD=3.42p
+ PS=20.28u PD=20.28u rfmode=0
M$673 VDD \$I220 \$I226 \$I215 sg13_lv_pmos L=0.13u W=18u AS=3.42p AD=3.42p
+ PS=20.28u PD=20.28u rfmode=0
M$681 \$I218 VDD \$I230 \$21 sg13_lv_nmos L=0.13u W=6u AS=1.29p AD=1.29p
+ PS=9.58u PD=9.58u rfmode=0
M$688 \$I221 VDD \$I233 \$21 sg13_lv_nmos L=0.13u W=6u AS=1.29p AD=1.29p
+ PS=9.58u PD=9.58u rfmode=0
M$695 \$I218 VSS \$I230 \$3 sg13_lv_pmos L=0.13u W=18u AS=3.87p AD=3.87p
+ PS=23.58u PD=23.58u rfmode=0
R$701 VDD \$3 ntap1 A=121.488p P=809.92u
M$702 \$I221 VSS \$I233 \$3 sg13_lv_pmos L=0.13u W=18u AS=3.87p AD=3.87p
+ PS=23.58u PD=23.58u rfmode=0
M$710 VSS \$I229 \$I210 \$21 sg13_lv_nmos L=0.13u W=54u AS=10.26p AD=10.26p
+ PS=74.52u PD=74.52u rfmode=0
M$767 VSS \$I232 \$I213 \$21 sg13_lv_nmos L=0.13u W=54u AS=10.26p AD=10.26p
+ PS=74.52u PD=74.52u rfmode=0
M$823 VDD VDD VDD \$3 sg13_lv_pmos L=0.13u W=72u AS=19.08p AD=19.08p PS=120.72u
+ PD=120.72u rfmode=0
M$824 VDD \$I229 \$I210 \$3 sg13_lv_pmos L=0.13u W=162u AS=30.78p AD=30.78p
+ PS=182.52u PD=182.52u rfmode=0
M$881 VDD \$I232 \$I213 \$3 sg13_lv_pmos L=0.13u W=162u AS=30.78p AD=30.78p
+ PS=182.52u PD=182.52u rfmode=0
M$938 VSS \$I228 \$I229 \$21 sg13_lv_nmos L=0.13u W=18u AS=3.42p AD=3.42p
+ PS=24.84u PD=24.84u rfmode=0
M$959 VSS \$I231 \$I232 \$21 sg13_lv_nmos L=0.13u W=18u AS=3.42p AD=3.42p
+ PS=24.84u PD=24.84u rfmode=0
M$980 VDD \$I228 \$I229 \$3 sg13_lv_pmos L=0.13u W=54u AS=10.26p AD=10.26p
+ PS=60.84u PD=60.84u rfmode=0
M$1001 VDD \$I231 \$I232 \$3 sg13_lv_pmos L=0.13u W=54u AS=10.26p AD=10.26p
+ PS=60.84u PD=60.84u rfmode=0
M$1022 VDD vinn_LO \$I218 \$3 sg13_lv_pmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=6.76u PD=6.76u rfmode=0
M$1027 VDD \$I216 \$I217 \$3 sg13_lv_pmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=6.76u PD=6.76u rfmode=0
M$1032 VDD vinp_LO \$I221 \$3 sg13_lv_pmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=6.76u PD=6.76u rfmode=0
M$1037 VDD \$I219 \$I220 \$3 sg13_lv_pmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=6.76u PD=6.76u rfmode=0
M$1047 VSS \$I216 \$I217 \$21 sg13_lv_nmos L=0.13u W=2u AS=0.38p AD=0.38p
+ PS=2.76u PD=2.76u rfmode=0
M$1057 VSS \$I219 \$I220 \$21 sg13_lv_nmos L=0.13u W=2u AS=0.38p AD=0.38p
+ PS=2.76u PD=2.76u rfmode=0
M$1062 VSS \$I230 \$I216 \$21 sg13_lv_nmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=8.28u PD=8.28u rfmode=0
M$1071 VSS \$I216 \$I228 \$21 sg13_lv_nmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=8.28u PD=8.28u rfmode=0
M$1080 VSS \$I233 \$I219 \$21 sg13_lv_nmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=8.28u PD=8.28u rfmode=0
M$1089 VSS \$I219 \$I231 \$21 sg13_lv_nmos L=0.13u W=6u AS=1.14p AD=1.14p
+ PS=8.28u PD=8.28u rfmode=0
M$1098 VDD \$I230 \$I216 \$3 sg13_lv_pmos L=0.13u W=18u AS=3.42p AD=3.42p
+ PS=20.28u PD=20.28u rfmode=0
M$1107 VDD \$I216 \$I228 \$3 sg13_lv_pmos L=0.13u W=18u AS=3.42p AD=3.42p
+ PS=20.28u PD=20.28u rfmode=0
M$1116 VDD \$I233 \$I219 \$3 sg13_lv_pmos L=0.13u W=18u AS=3.42p AD=3.42p
+ PS=20.28u PD=20.28u rfmode=0
M$1125 VDD \$I219 \$I231 \$3 sg13_lv_pmos L=0.13u W=18u AS=3.42p AD=3.42p
+ PS=20.28u PD=20.28u rfmode=0
.ENDS iqmod_mixer

.SUBCKT iqmod_spdt_switch di_spdt_ctrl v_c v_a v_b \$5 VDD VSS
M$1 v_b \$8 v_c \$5 sg13_lv_nmos L=0.13u W=6u AS=1.29p AD=1.29p PS=9.58u
+ PD=9.58u rfmode=0
R$7 VSS \$5 ptap1 A=18.36p P=122.4u
M$8 v_a \$7 v_c \$5 sg13_lv_nmos L=0.13u W=6u AS=1.29p AD=1.29p PS=9.58u
+ PD=9.58u rfmode=0
M$15 v_b \$7 v_c \$I14 sg13_lv_pmos L=0.13u W=36u AS=7.74p AD=7.74p PS=44.58u
+ PD=44.58u rfmode=0
R$21 VDD \$I14 ntap1 A=29.496p P=196.64u
M$22 v_a \$8 v_c \$I14 sg13_lv_pmos L=0.13u W=36u AS=7.74p AD=7.74p PS=44.58u
+ PD=44.58u rfmode=0
M$29 VDD VDD VDD \$I14 sg13_lv_pmos L=0.13u W=24u AS=6.36p AD=6.36p PS=38.12u
+ PD=38.12u rfmode=0
M$30 VDD di_spdt_ctrl \$8 \$I14 sg13_lv_pmos L=0.13u W=12u AS=2.28p AD=2.28p
+ PS=12.76u PD=12.76u rfmode=0
M$35 VDD \$8 \$7 \$I14 sg13_lv_pmos L=0.13u W=12u AS=2.28p AD=2.28p PS=12.76u
+ PD=12.76u rfmode=0
M$39 VSS VSS VSS \$5 sg13_lv_nmos L=0.13u W=4u AS=1.06p AD=1.06p PS=8.12u
+ PD=8.12u rfmode=0
M$40 VSS di_spdt_ctrl \$8 \$5 sg13_lv_nmos L=0.13u W=2u AS=0.38p AD=0.38p
+ PS=2.76u PD=2.76u rfmode=0
M$45 VSS \$8 \$7 \$5 sg13_lv_nmos L=0.13u W=2u AS=0.38p AD=0.38p PS=2.76u
+ PD=2.76u rfmode=0
.ENDS iqmod_spdt_switch

.SUBCKT iqmod_mfb_lpf di_filter_en \$2 vinp vinn VDD VSS voutp voutn
C$1 voutn \$1.vinp cap_cmim w=8u l=8u A=64p P=32u m=1
C$2 voutp \$2.vinp cap_cmim w=8u l=8u A=64p P=32u m=1
C$3 \$3 \$4 cap_cmim w=8u l=8u A=64p P=32u m=3
C$6 \$4 \$3 cap_cmim w=8u l=8u A=64p P=32u m=3
C$9 \$7 \$5 cap_cmim w=8u l=8u A=64p P=32u m=5
C$14 \$5 \$7 cap_cmim w=8u l=8u A=64p P=32u m=5
R$19 VSS VSS \$2 rhigh w=0.5u l=59u ps=0u b=0 m=4
R$21 VSS \$2 ptap1 A=535.752p P=3571.68u
R$27 \$4 \$1.vinp \$2 rhigh w=0.5u l=177u ps=0u b=0 m=1
R$30 \$3 \$2.vinp \$2 rhigh w=0.5u l=177u ps=0u b=0 m=1
R$31 VSS VSS \$2 rhigh w=0.5u l=60u ps=0u b=0 m=4
R$39 \$4 voutn \$2 rhigh w=0.5u l=180u ps=0u b=0 m=1
R$42 \$3 voutp \$2 rhigh w=0.5u l=180u ps=0u b=0 m=1
R$43 VSS VSS \$2 rhigh w=0.5u l=27u ps=0u b=0 m=4
R$51 vinp \$5 \$2 rhigh w=0.5u l=81u ps=0u b=0 m=1
R$54 vinn \$7 \$2 rhigh w=0.5u l=81u ps=0u b=0 m=1
R$55 VSS VSS \$2 rhigh w=0.5u l=31u ps=0u b=0 m=4
R$63 \$4 \$5 \$2 rhigh w=0.5u l=93u ps=0u b=0 m=1
R$66 \$3 \$7 \$2 rhigh w=0.5u l=93u ps=0u b=0 m=1
M$67 VSS VSS VSS \$2 sg13_lv_nmos L=1u W=28u AS=7.42p AD=7.42p PS=56.84u
+ PD=56.84u rfmode=0
M$68 VSS \$I20 \$I18 \$2 sg13_lv_nmos L=1u W=12u AS=2.28p AD=2.28p PS=16.56u
+ PD=16.56u rfmode=0
M$77 VSS \$I17 \$I18 \$2 sg13_lv_nmos L=1u W=12u AS=2.28p AD=2.28p PS=16.56u
+ PD=16.56u rfmode=0
M$86 VSS \$I19 \$I20 \$2 sg13_lv_nmos L=1u W=12u AS=2.28p AD=2.28p PS=16.56u
+ PD=16.56u rfmode=0
M$121 VDD VDD VDD \$I45 sg13_lv_pmos L=1u W=84u AS=22.26p AD=22.26p PS=133.42u
+ PD=133.42u rfmode=0
M$122 VDD \$I20 \$I18 \$I45 sg13_lv_pmos L=1u W=36u AS=6.84p AD=6.84p PS=38.28u
+ PD=38.28u rfmode=0
R$129 VDD \$I45 ntap1 A=170.22p P=1134.8u
M$131 VDD \$I17 \$I18 \$I45 sg13_lv_pmos L=1u W=36u AS=6.84p AD=6.84p PS=38.28u
+ PD=38.28u rfmode=0
M$140 VDD \$I19 \$I20 \$I45 sg13_lv_pmos L=1u W=36u AS=6.84p AD=6.84p PS=38.28u
+ PD=38.28u rfmode=0
M$148 VDD VDD VDD \$I48 sg13_lv_pmos L=1u W=84u AS=22.26p AD=22.26p PS=133.42u
+ PD=133.42u rfmode=0
M$149 VDD \$I20 \$I18 \$I48 sg13_lv_pmos L=1u W=36u AS=6.84p AD=6.84p PS=38.28u
+ PD=38.28u rfmode=0
R$156 VDD \$I48 ntap1 A=170.22p P=1134.8u
M$158 VDD \$I17 \$I18 \$I48 sg13_lv_pmos L=1u W=36u AS=6.84p AD=6.84p PS=38.28u
+ PD=38.28u rfmode=0
M$167 VDD \$I19 \$I20 \$I48 sg13_lv_pmos L=1u W=36u AS=6.84p AD=6.84p PS=38.28u
+ PD=38.28u rfmode=0
M$175 \$I19 di_filter_en \$I20 \$2 sg13_lv_nmos L=0.13u W=12u AS=2.58p AD=2.58p
+ PS=19.16u PD=19.16u rfmode=0
M$182 \$I17 di_filter_en \$I18 \$2 sg13_lv_nmos L=0.13u W=12u AS=2.58p AD=2.58p
+ PS=19.16u PD=19.16u rfmode=0
M$203 \$I19 \$I46 \$I20 \$I45 sg13_lv_pmos L=0.13u W=36u AS=7.74p AD=7.74p
+ PS=44.58u PD=44.58u rfmode=0
M$210 \$I17 \$I46 \$I18 \$I45 sg13_lv_pmos L=0.13u W=36u AS=7.74p AD=7.74p
+ PS=44.58u PD=44.58u rfmode=0
M$217 \$I19 \$I49 \$I20 \$I48 sg13_lv_pmos L=0.13u W=36u AS=7.74p AD=7.74p
+ PS=44.58u PD=44.58u rfmode=0
M$224 \$I17 \$I49 \$I18 \$I48 sg13_lv_pmos L=0.13u W=36u AS=7.74p AD=7.74p
+ PS=44.58u PD=44.58u rfmode=0
M$232 VSS \$I47 \$I17 \$2 sg13_lv_nmos L=1u W=10u AS=1.9p AD=1.9p PS=13.8u
+ PD=13.8u rfmode=0
M$245 VSS \$I50 \$I17 \$2 sg13_lv_nmos L=1u W=10u AS=1.9p AD=1.9p PS=13.8u
+ PD=13.8u rfmode=0
M$258 VDD \$I47 \$I17 \$I45 sg13_lv_pmos L=1u W=60u AS=11.4p AD=11.4p PS=63.8u
+ PD=63.8u rfmode=0
M$271 VDD \$I50 \$I17 \$I48 sg13_lv_pmos L=1u W=60u AS=11.4p AD=11.4p PS=63.8u
+ PD=63.8u rfmode=0
M$284 VSS \$I47 voutn \$2 sg13_lv_nmos L=1u W=20u AS=3.8p AD=3.8p PS=27.6u
+ PD=27.6u rfmode=0
M$307 VSS \$I18 voutn \$2 sg13_lv_nmos L=1u W=20u AS=3.8p AD=3.8p PS=27.6u
+ PD=27.6u rfmode=0
M$330 VSS voutn \$I19 \$2 sg13_lv_nmos L=1u W=20u AS=3.8p AD=3.8p PS=27.6u
+ PD=27.6u rfmode=0
M$353 VSS \$I50 voutp \$2 sg13_lv_nmos L=1u W=20u AS=3.8p AD=3.8p PS=27.6u
+ PD=27.6u rfmode=0
M$376 VSS \$I18 voutp \$2 sg13_lv_nmos L=1u W=20u AS=3.8p AD=3.8p PS=27.6u
+ PD=27.6u rfmode=0
M$399 VSS voutp \$I19 \$2 sg13_lv_nmos L=1u W=20u AS=3.8p AD=3.8p PS=27.6u
+ PD=27.6u rfmode=0
M$422 VDD \$I47 voutn \$I45 sg13_lv_pmos L=1u W=120u AS=22.8p AD=22.8p
+ PS=127.6u PD=127.6u rfmode=0
M$445 VDD \$I18 voutn \$I45 sg13_lv_pmos L=1u W=120u AS=22.8p AD=22.8p
+ PS=127.6u PD=127.6u rfmode=0
M$468 VDD voutn \$I19 \$I45 sg13_lv_pmos L=1u W=120u AS=22.8p AD=22.8p
+ PS=127.6u PD=127.6u rfmode=0
M$491 VDD \$I50 voutp \$I48 sg13_lv_pmos L=1u W=120u AS=22.8p AD=22.8p
+ PS=127.6u PD=127.6u rfmode=0
M$514 VDD \$I18 voutp \$I48 sg13_lv_pmos L=1u W=120u AS=22.8p AD=22.8p
+ PS=127.6u PD=127.6u rfmode=0
M$537 VDD voutp \$I19 \$I48 sg13_lv_pmos L=1u W=120u AS=22.8p AD=22.8p
+ PS=127.6u PD=127.6u rfmode=0
M$559 VDD \$I46 \$I47 \$2 sg13_lv_nmos L=0.13u W=6u AS=1.29p AD=1.29p PS=9.58u
+ PD=9.58u rfmode=0
M$566 \$1.vinp \$I67 \$I47 \$2 sg13_lv_nmos L=0.13u W=6u AS=1.29p AD=1.29p
+ PS=9.58u PD=9.58u rfmode=0
M$573 VDD \$I49 \$I50 \$2 sg13_lv_nmos L=0.13u W=6u AS=1.29p AD=1.29p PS=9.58u
+ PD=9.58u rfmode=0
M$580 \$2.vinp \$I68 \$I50 \$2 sg13_lv_nmos L=0.13u W=6u AS=1.29p AD=1.29p
+ PS=9.58u PD=9.58u rfmode=0
M$587 VDD \$I67 \$I47 \$I45 sg13_lv_pmos L=0.13u W=36u AS=7.74p AD=7.74p
+ PS=44.58u PD=44.58u rfmode=0
M$594 \$1.vinp \$I46 \$I47 \$I45 sg13_lv_pmos L=0.13u W=36u AS=7.74p AD=7.74p
+ PS=44.58u PD=44.58u rfmode=0
M$601 VDD \$I68 \$I50 \$I48 sg13_lv_pmos L=0.13u W=36u AS=7.74p AD=7.74p
+ PS=44.58u PD=44.58u rfmode=0
M$608 \$2.vinp \$I49 \$I50 \$I48 sg13_lv_pmos L=0.13u W=36u AS=7.74p AD=7.74p
+ PS=44.58u PD=44.58u rfmode=0
M$615 VDD VDD VDD \$I45 sg13_lv_pmos L=0.13u W=24u AS=6.36p AD=6.36p PS=38.12u
+ PD=38.12u rfmode=0
M$616 VDD \$I46 \$I67 \$I45 sg13_lv_pmos L=0.13u W=12u AS=2.28p AD=2.28p
+ PS=12.76u PD=12.76u rfmode=0
M$621 VDD di_filter_en \$I46 \$I45 sg13_lv_pmos L=0.13u W=12u AS=2.28p AD=2.28p
+ PS=12.76u PD=12.76u rfmode=0
M$625 VDD VDD VDD \$I48 sg13_lv_pmos L=0.13u W=24u AS=6.36p AD=6.36p PS=38.12u
+ PD=38.12u rfmode=0
M$626 VDD \$I49 \$I68 \$I48 sg13_lv_pmos L=0.13u W=12u AS=2.28p AD=2.28p
+ PS=12.76u PD=12.76u rfmode=0
M$631 VDD di_filter_en \$I49 \$I48 sg13_lv_pmos L=0.13u W=12u AS=2.28p AD=2.28p
+ PS=12.76u PD=12.76u rfmode=0
M$635 VSS VSS VSS \$2 sg13_lv_nmos L=0.13u W=8u AS=2.12p AD=2.12p PS=16.24u
+ PD=16.24u rfmode=0
M$636 VSS \$I46 \$I67 \$2 sg13_lv_nmos L=0.13u W=2u AS=0.38p AD=0.38p PS=2.76u
+ PD=2.76u rfmode=0
M$641 VSS di_filter_en \$I46 \$2 sg13_lv_nmos L=0.13u W=2u AS=0.38p AD=0.38p
+ PS=2.76u PD=2.76u rfmode=0
M$646 VSS \$I49 \$I68 \$2 sg13_lv_nmos L=0.13u W=2u AS=0.38p AD=0.38p PS=2.76u
+ PD=2.76u rfmode=0
M$651 VSS di_filter_en \$I49 \$2 sg13_lv_nmos L=0.13u W=2u AS=0.38p AD=0.38p
+ PS=2.76u PD=2.76u rfmode=0
.ENDS iqmod_mfb_lpf
